US07291643B2
5-(4-Aminophenyl)-1-methyl-1H-pyrrole-2-carbonitrile (98 mg, 0.5 mmol) was dissolved in dichloromethane (2 mL) and triethylamine (87 μL, 0.6 mmol) was added. Propane sulfonyl chloride (62 μL, 0.55 mmol) was added and the mixture was stirred 16 hours. The mixture was diluted with 50% ether in ethyl acetate and washed with water, saturated NaHCO3, 2N HCl, brine, dried over MgSO4, and concentrated. Flash chromatography (0%-100% ethyl acetate in hexane) afforded N-[4-(5-cyano-1-methyl-1H-pyrrol-2-yl)phenyl]propane-1-sulfonamide (0.039 g).

reactant | 5-(4-Aminophenyl)-1-methyl-1H-pyrrole-2-carbonitrile | 0.5 mmol, 98 mg | NC1=CC=C(C=C1)C1=CC=C(N1C)C#N | C12H11N3
reactant | triethylamine | 0.6 mmol, 87 μL | C(C)N(CC)CC | C6H15N
reactant | Propane sulfonyl chloride | 0.55 mmol, 62 μL | C(CC)S(=O)(=O)Cl | C3H7ClO2S
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
solvent | ether | CCOCC | C4H10O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-[4-(5-cyano-1-methyl-1H-pyrrol-2-yl)phenyl]propane-1-sulfonamide | 0.039 g | C(#N)C1=CC=C(N1C)C1=CC=C(C=C1)NS(=O)(=O)CCC | C15H17N3O2S
